US05086179
To a solution of 4.5 g (0.15 mol) of (R)-α-methylbenzyl-(S)-3-aminoquinuclidine dihydrochloride in 10 ml of water and 5 ml of methanol was added 2.4 g (0.03 mol) of 50% NaOH. This solution was stirred for five minutes and then extracted with toluene (2×20 ml). The toluene extracts were combined, washed with 40 ml of water and dried with magnesium sulfate. The solvent was then removed under vacuum to yield 3.1 g (0.13 mol) (90%) of (R)-α-methylbenzyl-(S)-3-aminoquinuclidine as the free base. This oil is dissolved in 10 ml of toluene, and used as is in the subsequent coupling reaction.

reactant | (R)-α-methylbenzyl-(S)-3-aminoquinuclidine dihydrochloride | 0.15 mol, 4.5 g | Cl.Cl.CC(C1=CC=CC=C1)[C@@H]1N2CCC([C@H]1N)CC2
reactant | NaOH | 0.03 mol, 2.4 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | (R)-α-methylbenzyl-(S)-3-aminoquinuclidine | 0.13 mol, 3.1 g, 90% | CC(C1=CC=CC=C1)[C@@H]1N2CCC([C@H]1N)CC2 | C15H22N2
